US06784167B2
To a solution of 2-(4-fluorobenzoyl)thiophene (5.09 g, 24.7 mmol) in Et2O (100 mL) was added a solution of LiAlH4 (1M in THF, 30 mL, 30 mmol) and the reaction mixture was stirred overnight. The resulting mixture was cooled to 0° C., poured onto ice, extracted with Et2O, dried (Na2SO4) and concentrated under reduced pressure to give (4-fluorophenyl)-2-thienylmethan-1-ol as a yellow oil. The crude product was used without further purification.

reactant | 2-(4-fluorobenzoyl)thiophene | 24.7 mmol, 5.09 g | FC1=CC=C(C(=O)C=2SC=CC2)C=C1 | C11H7FOS
reactant | LiAlH4 | 30 mmol, 1M, 30 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | (4-fluorophenyl)-2-thienylmethan-1-ol | FC1=CC=C(C=C1)C(O)C=1SC=CC1 | C11H9FOS
